US06369222B1
The title compound was prepared by the following reaction sequence: i) treatment of the 5-bromo-azepan-4-one hydrobromide (1:1) [Ger. Offen. (1989), DE 38207751] with di-t-butyldicarbonate in dioxane/aq. sodium hydrogen carbonate solution to yield the 4-bromo-5-oxo-azepane-1-carboxylic acid tert-butyl ester; ii) treatment of the 4-bromo-5-oxo-azepane-1-carboxylic acid tert-butyl ester with thioacetamide in ethanol in the presence of triethylamine at reflux to give the 2-methyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester; iii) conversion of the 2-methyl-4,5,7,8-tetrahydro-thiazolo[5-d]azepine-6-carboxylic acid tert-butyl ester into the 2-methyl-5,6,7,8-tetrahydro-4H-thiazolo[4,5-d]azepine by removal of the tert-butyloxycarbonyl function with hydrogen chloride (aqueous, 37%) in methanol at room temperature.

reactant | 4-bromo-5-oxo-azepane-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(C(CC1)=O)Br | C11H18BrNO3
reactant | thioacetamide | C(C)(=S)N | C2H5NS
reactant | triethylamine | C(C)N(CC)CC | C6H15N
solvent | ethanol | C(C)O | C2H6O
product | 2-methyl-4,5,7,8-tetrahydro-thiazolo[4,5-d]azepine-6-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC2=C(CC1)SC(=N2)C | C13H20N2O2S
